US09382236B2
1-(2-Chlorophenyl)-N-[4-(2,4-dioxo-7-methoxy-1H-benzo[1,2-b][1,4]diazepin-1-yl)phenyl]methanesulfonamide
By using 1-(4-aminophenyl)-7-methoxy-1H-1,5-benzodiazepine-2,4(3H,5H)-dione (65 mg, 0.22 mmol), and 2-chlorobenzylsulfonyl chloride (74 μL, 0.33 mmol), the title compound (23 mg, yield 13%) was obtained in the same manner as that of Example 145.

reactant | 1-(4-aminophenyl)-7-methoxy-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 0.22 mmol, 65 mg | NC1=CC=C(C=C1)N1C(CC(NC2=C1C=CC(=C2)OC)=O)=O | C16H15N3O3
reactant | 2-chlorobenzylsulfonyl chloride | 0.33 mmol, 74 μL | ClC1=C(CS(=O)(=O)Cl)C=CC=C1 | C7H6Cl2O2S
product | 1-(2-Chlorophenyl)-N-[4-(2,4-dioxo-7-methoxy-1H-benzo[1,2-b][1,4]diazepin-1-yl)phenyl]methanesulfonamide | 23 mg, yield 13% | ClC1=C(C=CC=C1)CS(=O)(=O)NC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C=C(C=C2)OC | C23H20ClN3O5S
